US07371746B2
In 3 ml of N,N-dimethylformamide were dissolved 373 mg of 3-methylsulfonyl-5-(3,5-dimethylpiperidino)-1,2,4-thiadiazole and 84 mg of 2-propyn-1-ol, and 71 mg of sodium hydride (oil suspension; content: 60 weight %) was added under ice-cooling. The mixture was stirred for 15 minutes and at room temperature for 1.5 hour. The reaction mixture was poured to water, and extracted with tert-butyl methyl ether. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 326 mg of 3-(2-propynyloxy)-5-(3,5-dimethylpiperidino)-1,2,4-thiadiazole (hereinafter, referred to as the present compound (20)).

reactant | 3-methylsulfonyl-5-(3,5-dimethylpiperidino)-1,2,4-thiadiazole | 373 mg | CS(=O)(=O)C1=NSC(=N1)N1CC(CC(C1)C)C | C10H17N3O2S2
reactant | 2-propyn-1-ol | 84 mg | C(C#C)O | C3H4O
reactant | sodium hydride | 71 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(2-propynyloxy)-5-(3,5-dimethylpiperidino)-1,2,4-thiadiazole | 326 mg | C(C#C)OC1=NSC(=N1)N1CC(CC(C1)C)C | C12H17N3OS
